US07235700B2
15-Bromo-1-(t-butyldimethylsiloxy)pentadecane (1 g, 2.36 mmol) dissolved in absolute ethyl ether (3 mL) and magnesium (0.115 g) were mixed, and the mixture was refluxed for 40 minutes. Subsequently, 3-ethoxy-2,6,6-trimethyl-2-cyclohexen-1-one (287.5 mg, 1.57 mmol) dissolved in tetrahydrofuran (2 mL) was added thereto. After stirring the mixture for four hours, 10% hydrochloric acid (3 mL) was added, and the reaction was allowed to continue for a further 17 hours under stirring. The reaction mixture was neutralized with sodium hydrogencarbonate, followed by extraction with ethyl ether three times. The organic layers were combined, washed with aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by means of silica gel column chromatography (hexane/ethyl acetate=9/1-6/4; concentration gradient=5%), to thereby afford 222.7 mg (0.61 mmol) of 3-(15-hydroxypentadecyl)-2,4,4-trimethyl-2-cyclohexen-1-one.

reactant | 15-Bromo-1-(t-butyldimethylsiloxy)pentadecane | 2.36 mmol, 1 g | BrCCCCCCCCCCCCCCCO[Si](C)(C)C(C)(C)C | C21H45BrOSi
reactant | magnesium | 0.115 g | [Mg] | Mg
reactant | 3-ethoxy-2,6,6-trimethyl-2-cyclohexen-1-one | 1.57 mmol, 287.5 mg | C(C)OC1=C(C(C(CC1)(C)C)=O)C | C11H18O2
reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(15-hydroxypentadecyl)-2,4,4-trimethyl-2-cyclohexen-1-one | 0.61 mmol, 222.7 mg, Yield: 39% | OCCCCCCCCCCCCCCCC1=C(C(CCC1(C)C)=O)C | C24H44O2
